US09193693B2
Step 4. 3-(4-(4-Chlorophenyl)piperazin-1-yl)-2-phenylquinoxaline-6-carboxylic acid
A solution of methyl 3-(4-(4-chlorophenyl)piperazin-1-yl)-2-phenylquinoxaline-6-carboxylate (153.4 mg, 0.33 mmol, 1.00 equiv) and sodium hydroxide (66 mg, 1.65 mmol, 5.00 equiv) in tetrahydrofuran/MeOH (1:1) (12 mL) was placed in a 50-mL round bottom flask and stirred for 5 h at 50° C. in an oil bath. The pH value of the solution was adjusted to 3-4 with 1N hydrochloric acid, then concentrated under vacuum. The resulting solid was washed with methanol affording 47 mg (31%) of 3-(4-(4-chlorophenyl)piperazin-1-yl)-2-phenylquinoxaline-6-carboxylic acid as a yellow solid.

reactant | methyl 3-(4-(4-chlorophenyl)piperazin-1-yl)-2-phenylquinoxaline-6-carboxylate | 0.33 mmol, 153.4 mg, 1.00 equiv | ClC1=CC=C(C=C1)N1CCN(CC1)C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C26H23ClN4O2
reactant | sodium hydroxide | 1.65 mmol, 66 mg, 5.00 equiv | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran MeOH | 12 mL | O1CCCC1.CO
product | 3-(4-(4-Chlorophenyl)piperazin-1-yl)-2-phenylquinoxaline-6-carboxylic acid | ClC1=CC=C(C=C1)N1CCN(CC1)C=1C(=NC2=CC=C(C=C2N1)C(=O)O)C1=CC=CC=C1 | C25H21ClN4O2
